US06599925B2
Following the procedure described in Step 4 of Example 6, ethyl 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-1-phenyl-2-naphthyl]oxy}acetate (0.161 g, 0.318 mmol) was hydrolyzed with potassium hydroxide (0.0693 g, 1.24 mmol) in THF (6 mL) and water (6 mL). 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-1-phenyl-2-naphthyl]oxy}acetic acid was obtained and was converted to the sodium salt by dissolving (0.103 g, 0.215 mmol) of the acid in methanol (5 mL) and adding 1N sodium hydroxide (0.22 mL, 22 mmol). After standing for 25 minutes, the mixture was solvent evaporated and the residue was rinsed with hexane and dried for 24 hours at 100° C. to give a yellow solid (0.0913 g), mp 272-273° C. (dec.). Mass spectrum (−ESI, [M−H]−) m/z 477. 1HNMR (500 MHz, DMSO-d6): δ8.35 (d, 1H, J=1.7 Hz), 8.05 (t, 2H, J=7.6 Hz), 7.65-7.7 (m, 2H), 7.5-7.55 (m, 3H), 7.35-7.45 (m, 6H), 4.25 (s, 2H), 2.75 (t, 2H, J=7.3 Hz), 1.5-1.55 (m, 2H), 1.1-1.2 (m, 2H), and 0.7 ppm (t, 3H, J=7.4 Hz). Elemental Analysis for C31H26O5Na.0.6H2O: Calculated: C, 72.82; H, 5.16; N, 0.00. Found: C, 72.57; H, 4.92; N, 0.05.

reactant | ethyl 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-1-phenyl-2-naphthyl]oxy}acetate | 0.318 mmol, 0.161 g | C(CCCC)(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=C(C1=CC2)C2=CC=CC=C2)OCC(=O)OCC | C33H30O5
reactant | potassium hydroxide | 1.24 mmol, 0.0693 g | [OH-].[K+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-1-phenyl-2-naphthyl]oxy}acetic acid | C(CCCC)(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=C(C1=CC2)C2=CC=CC=C2)OCC(=O)O | C31H26O5
